US07632831B2
1-[3-(1,4-Diazabicyclo[3.2.2]non-4-ylcarbonyl)-1,2-benzisothiazol-6-yl]-3-isopropylimidazolidin-2-one hydroformate
A mixture of toluene (8 mL) and (R)-(+)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.2 mmol) was degassed with nitrogen for 4 minutes, then heated at 80° C. until the (R)-(+)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl dissolved completely. The solution was allowed to cool to rt and palladium acetate (0.09 mmol) was added. The mixture was stirred until the palladium acetate completely dissolved. The resultant yellow solution was added to a mixture of 6-bromo-3-(1,4-diazabicyclo[3.2.2]non-4-ylcarbonyl)-1,2-benzisothiazole (0.33 mmol), 1-isopropylimidazolidin-2-one (0.5 mmol) and cesium carbonate (0.39 mmol) under a nitrogen atmosphere. The reaction mixture was subjected to microwave radiation at 150° C. for 360 s. The inorganic precipitates were removed by filtration, and the filtrate was concentrated. The residue was purified by preparative HPLC to provide the product in 75% yield. 1H NMR (CD3OD) δ 8.17 (s, 1H), 8.03-7.93 (m, 2H), 4.30-4.05 (m, 2H), 3.92 (t, J=7.14, 2H), 3.70 (t, J=5.7, 2H), 3.54 (t, J=7.1, 2H), 3.20-3.00 (m, 6H), 1.22 (d, J=6.78, 3 6H); LC/MS (EI) tR3.10 min, m/z 415 (M++1).

reactant | (R)-(+)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.2 mmol | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | 6-bromo-3-(1,4-diazabicyclo[3.2.2]non-4-ylcarbonyl)-1,2-benzisothiazole | 0.33 mmol | BrC1=CC2=C(C(=NS2)C(=O)N2CCN3CCC2CC3)C=C1 | C15H16BrN3OS
reactant | 1-isopropylimidazolidin-2-one | 0.5 mmol | C(C)(C)N1C(NCC1)=O | C6H12N2O
reactant | cesium carbonate | 0.39 mmol | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | palladium acetate | 0.09 mmol | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[3-(1,4-Diazabicyclo[3.2.2]non-4-ylcarbonyl)-1,2-benzisothiazol-6-yl]-3-isopropylimidazolidin-2-one | 75% yield | N12CCN(C(CC1)CC2)C(=O)C2=NSC1=C2C=CC(=C1)N1C(N(CC1)C(C)C)=O | C21H27N5O2S
